US07968570B2
A mixture of 2,3-dihydro-isoindol-1-one (0.133 g, 1 mmol,), 1-bromomethyl-4-chloro-benzene (0.246 g, 1.2 mmol), Cs2CO3 (0.816 g, 2.5 mmol), and 18-crown-6 (0.026 g, 0.1 mmol) in acetone (5 mL) was stirred at 70° C. for 16 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 2-(4-chloro-benzyl)-2,3-dihydro-isoindol-1-one (0.125 g, 97%). 1H NMR (300 MHz, CDCl3): δ (ppm) 4.24 (s, 2H), 4.76 (s, 2H), 7.22-7.54 (m, 7H), 7.90 (d, 1H).

reactant | 2,3-dihydro-isoindol-1-one | 1 mmol, 0.133 g | C1(NCC2=CC=CC=C12)=O | C8H7NO
reactant | 1-bromomethyl-4-chloro-benzene | 1.2 mmol, 0.246 g | BrCC1=CC=C(C=C1)Cl | C7H6BrCl
reactant | Cs2CO3 | 2.5 mmol, 0.816 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 18-crown-6 | 0.1 mmol, 0.026 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | acetone | 5 mL | CC(=O)C | C3H6O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-chloro-benzyl)-2,3-dihydro-isoindol-1-one | 0.125 g, 97% | ClC1=CC=C(CN2C(C3=CC=CC=C3C2)=O)C=C1 | C15H12ClNO
